2159-06-27 06:38:00 Physician Resident Progress Note
Chief Complaint: Coma
   24 Hour Events:
   Propofol held during day, increased awareness and some following of
   commands
   Vascular surgery recs: medical management, inform before discharge
   EEG performed
   Neurolgy consult recs in; no change in management, recommended MRI
   MRI / MRA performed overnight
   Plan for extubation today
 BLOOD CULTURED - At [**2159-6-26**] 12:00 PM
 INVASIVE VENTILATION - START [**2159-6-26**] 12:00 PM
 ARTERIAL LINE - START [**2159-6-26**] 12:27 PM
 EEG - At [**2159-6-26**] 02:00 PM
 MAGNETIC RESONANCE IMAGING - At [**2159-6-27**] 01:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2159-6-26**] 08:00 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Labetalol - 3 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2159-6-26**] 08:00 PM
   Hydralazine - [**2159-6-27**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-6-27**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.8
   HR: 50 (47 - 62) bpm
   BP: 110/82(97) {109/65(83) - 167/93(114)} mmHg
   RR: 12 (11 - 17) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  4,846 mL
                                                                  1,252 mL
   PO:
             TF:
   IVF:
                                                                  2,053 mL
                                                                  1,132 mL
   Blood products:
   Total out:
                                                                  1,153 mL
                                                                    830 mL
   Urine:
                                                                    953 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,693 mL
                                                                    422 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 858 (241 - 882) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 22
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///18/
   Ve: 10.7 L/min
   Physical Examination
   General: Intubated, agitated
   HEENT: EOMI, Dry MM
   Cardiovascular: Regular rate, no murmurs, rubs or gallops
   Lungs: Soft rhonchi anteriorly
   Skin:  Dry, warm
   Neurologic: Responds to painful stimuli, spontaneous movement on the
   right hemibody. Hyper-reflexia at patella bilaterally with 2 beats of
   clonus, (+) Babinski bilaterally.
   Labs / Radiology
   343 K/uL
   8.5 g/dL
   94 mg/dL
   2.3 mg/dL
   18 mEq/L
   3.9 mEq/L
   32 mg/dL
   114 mEq/L
   140 mEq/L
   24.5 %
   7.0 K/uL
        [image002.jpg]
                             [**2159-6-24**]  12:29 PM
                             [**2159-6-24**]  06:33 PM
                             [**2159-6-24**]  09:01 PM
                             [**2159-6-25**]  02:13 AM
                             [**2159-6-25**]  02:35 AM
                             [**2159-6-25**]  08:43 AM
                             [**2159-6-25**]  05:53 PM
                             [**2159-6-26**]  04:08 AM
                             [**2159-6-26**]  04:12 AM
                             [**2159-6-27**]  03:50 AM
   WBC
   8.1
   9.4
   7.2
   7.0
   Hct
   28.8
   28.9
   26.6
   24.5
   Plt
   [**Telephone/Fax (3) 1049**]43
   Cr
   2.1
   2.2
   2.3
   TropT
   0.69
   0.68
   0.96
   TCO2
   26
   23
   24
   22
   22
   Glucose
   101
   109
   112
   94
   Other labs: PT / PTT / INR:13.3/25.7/1.1, CK / CKMB /
   Troponin-T:611/7/0.96, ALT / AST:20/43, Alk Phos / T Bili:66/0.4,
   Amylase / Lipase:42/47, Differential-Neuts:85.4 %, Lymph:8.5 %,
   Mono:5.8 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL,
   LDH:254 IU/L, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1050**] is a 54yo male with recent type B aortic dissection,
   transferred to the MICU for further managment of his acute medical
   issues.
   .
   1)Aortic dissection: Agressive BP control with goal of SBP < 130 and HR
   < 60
   -- Labetolol gtt for goal SBP<130
   -- Additional Labetolol 600mg TID, would titrate up as Labetolol gtt is
   titrated down
   -- Continue Hydralazine with PRN doses as necessary
   -- continue ASA 325mg PO daily
   -- No surgical intervention anticipated per vascular team
   .
   #) Anemia: Concerning given above dissection.
   -- Active type and screen
   -- Would transfuse today, goal > 25 given potential for catastrophic
   hemorrhage
   -- Would re-scan abdomen to clarify if dissection has progressed to
   renal arteries or if flap has been formed with RP bleed, however given
   ARF contrast load may acutely worsen failure and cause CIN
   -- Discuss with team in AM
   2) Coma: Mild improvement after sedation held
   -- Appreciate neuro follow up
   -- F/U MRI/MRA to help guide prognosis
   -- Although etiology remains unclear, strokes likely represent embolic
   phenomena
   .
   3) Bacteremia: GPCs in blood cultures from a-line. He had a TTE and TEE
   which do not suggest endocarditis.
   -- Unlikely to represent endocarditis without persistant positive
   cultures or vegetations on TTE/TEE
   -- Continue Vancomycin 1gm IV Q12 x 7d course; check trough prior to
   4th dose
   -- Appreciate ID reccs
   -- f/u surveillance cultures
   .
   4)Respiratory: Patient was intubated on [**6-23**] for airway protection in
   the setting of acute mental status changes. Currently on MMV and
   oxygenating appropriately.
   - Ct current vent settings
   - Consider extubation once mental status has improved
   .
   5)Renal failure: Patient presented with Cr of 1.9 on admission; peaked
   to 2.4 and now at 2.3.
   -- Unclear if dissection has extended and is affecting renal arteries.
   -- Would also consider embolic phenomena causing renal infarction;
   evaluate with ultrasound with dopplers
   -- Urine electrolytes with FENA of 0.2 / FE Urea > 41%, unclear if
   patient received any diuretics, but would suspect ATN in setting of
   agressive BP control and prior severe hypertension
   -- Negative eos suggesting against cholesterol emboli
   -- Renally dose medications
   .
   6) EKG changes: Patient has impressive EKG changes with ST depressions
   in lateral leads V3-V6. Cardiology is following closely and feels that
   this is demand ischemia. He has elevated CK and troponin is elevated
   which is likely due to demand ischemia.
   -- f/u cardiology reccs
   -- Ct ASA 325mg PO daily
   -- Check lipid panel
   -- When medically stable will need stress test
   .
   7)Anemia: Patient presented with Hct~36.5 on admission; decreased to 29
   today. Possible dilutional effect given all the IVFs he has received.
   - Continue to trend daily Hct
   .
   8)FEN: NPO for now; consider starting tube feeds in AM
   .
   9)Prophylaxis: Heparin SQ for DVT prophylaxis
   .
   10)Access: A-line, 2 PIV
   .
   11)Dispo: Pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2159-6-26**] 12:00 PM
   Arterial Line - [**2159-6-26**] 12:27 PM
   20 Gauge - [**2159-6-26**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2159-06-28 06:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2159-6-27**] 10:30 AM
   Abdominal/Renal ultrasound: left renal velocity slower than right,
   cannot exclude left renal involvement in dissection
 INVASIVE VENTILATION - STOP [**2159-6-27**] 11:33 AM, extubated without
   problems
   -MRI/MRA confirmed diffuse cortical infarction: embolic vs. vasculitis,
   vs. toxic insult
   -Labetalol gtt taken off, but patient did not tolerate, back on  now at
   6mg/hr
   -HCT stable overnight
   -Blood culture growing sparse strep viridans
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2159-6-27**] 08:38 AM
   Infusions:
   Labetalol - 6 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2159-6-27**] 08:39 AM
   Heparin Sodium (Prophylaxis) - [**2159-6-27**] 04:27 PM
   Hydralazine - [**2159-6-28**] 04:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-6-28**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.6
   HR: 58 (48 - 62) bpm
   BP: 164/92(116) {103/65(86) - 170/128(134)} mmHg
   RR: 14 (12 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 89.1 kg (admission): 74 kg
   Height: 70 Inch
             Total In:
                                                                  3,210 mL
                                                                    388 mL
   PO:
             TF:
   IVF:
                                                                  2,910 mL
                                                                    388 mL
   Blood products:
   Total out:
                                                                  1,740 mL
                                                                    255 mL
   Urine:
                                                                  1,640 mL
                                                                    255 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                  1,470 mL
                                                                    135 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 599 (599 - 599) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 10 cmH2O
   SpO2: 94%
   ABG: 7.38/31/123/16/-5
   Ve: 7.2 L/min
   PaO2 / FiO2: 410
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   383 K/uL
   9.0 g/dL
   89 mg/dL
   2.2 mg/dL
   16 mEq/L
   4.0 mEq/L
   32 mg/dL
   112 mEq/L
   139 mEq/L
   26.3 %
   8.0 K/uL
        [image002.jpg]
                             [**2159-6-25**]  02:35 AM
                             [**2159-6-25**]  08:43 AM
                             [**2159-6-25**]  05:53 PM
                             [**2159-6-26**]  04:08 AM
                             [**2159-6-26**]  04:12 AM
                             [**2159-6-27**]  03:50 AM
                             [**2159-6-27**]  09:27 AM
                             [**2159-6-27**]  01:14 PM
                             [**2159-6-27**]  02:34 PM
                             [**2159-6-28**]  03:06 AM
   WBC
   7.2
   7.0
   8.0
   Hct
   26.6
   24.5
   26.6
   26.3
   Plt
   [**Telephone/Fax (3) 1071**]
   Cr
   2.2
   2.3
   2.2
   TropT
   0.96
   TCO2
   24
   22
   22
   19
   19
   Glucose
   109
   112
   94
   89
   Other labs: PT / PTT / INR:13.3/25.7/1.1, CK / CKMB /
   Troponin-T:611/7/0.96, ALT / AST:20/43, Alk Phos / T Bili:66/0.4,
   Amylase / Lipase:42/47, Differential-Neuts:85.4 %, Lymph:8.5 %,
   Mono:5.8 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL,
   LDH:254 IU/L, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:3.9 mg/dL
   Imaging: MRI Brain: prelim read: Innumerable small infarcts seen in
   both hemispheres involving the supratentorial and infratentorial
   compartments as well as portions of the corpus callosum. These infarcts
   may be from an embolic source including the heart or aorta. Small
   vessel vasculitis and toxic insult to the brain are also
   considerations. These findings were discussed with Dr. [**First Name (STitle) 1072**] on
   [**2159-6-27**].
   Renal U/S with doppler:
   1. Asymmetry in the peak systolic velocities of the main renal
   arteries, with the left measuring considerably slower than the right.
   Given that the
   abdominal aorta and the dissection flap are not visualized, involvement
   of the
   left renal artery origin cannot be excluded.
   2. No hydronephrosis.
   3. Trace free fluid in the abdomen.
   Microbiology: Blood [**6-23**]: Coag neg staph
   Sputum [**6-24**]: MSSA
   Blood 8/3: Coag neg staph, strep viridans
   Assessment and Plan
   Mr. [**Known lastname 1050**] is a 54yo male with recent type B aortic dissection,
   transferred to the MICU for further managment of his acute medical
   issues.
   .
   1)Aortic dissection: Agressive BP control with goal of SBP < 130 and HR
   < 60
   -- Labetolol gtt for goal SBP<130
   -- Additional Labetolol 600mg TID, would titrate up as Labetolol gtt is
   titrated down
   -- Continue Hydralazine with PRN doses as necessary
   -- continue ASA 325mg PO daily
   -- No surgical intervention anticipated per vascular team
   .
   #) Anemia: Concerning given above dissection.
   -- Active type and screen
   -- Would transfuse today, goal > 25 given potential for catastrophic
   hemorrhage
   -- Would re-scan abdomen to clarify if dissection has progressed to
   renal arteries or if flap has been formed with RP bleed, however given
   ARF contrast load may acutely worsen failure and cause CIN
   -- Discuss with team in AM
   2) Coma: Mild improvement after sedation held
   -- Appreciate neuro follow up
   -- F/U MRI/MRA to help guide prognosis
   -- Although etiology remains unclear, strokes likely represent embolic
   phenomena
   .
   3) Bacteremia: GPCs in blood cultures from a-line. He had a TTE and TEE
   which do not suggest endocarditis.
   -- Unlikely to represent endocarditis without persistant positive
   cultures or vegetations on TTE/TEE
   -- Continue Vancomycin 1gm IV Q12 x 7d course; check trough prior to
   4th dose
   -- Appreciate ID reccs
   -- f/u surveillance cultures
   .
   4)Respiratory: Patient was intubated on [**6-23**] for airway protection in
   the setting of acute mental status changes. Currently on MMV and
   oxygenating appropriately.
   - Ct current vent settings
   - Consider extubation once mental status has improved
   .
   5)Renal failure: Patient presented with Cr of 1.9 on admission; peaked
   to 2.4 and now at 2.3.
   -- Unclear if dissection has extended and is affecting renal arteries.
   -- Would also consider embolic phenomena causing renal infarction;
   evaluate with ultrasound with dopplers
   -- Urine electrolytes with FENA of 0.2 / FE Urea > 41%, unclear if
   patient received any diuretics, but would suspect ATN in setting of
   agressive BP control and prior severe hypertension
   -- Negative eos suggesting against cholesterol emboli
   -- Renally dose medications
   .
   6) EKG changes: Patient has impressive EKG changes with ST depressions
   in lateral leads V3-V6. Cardiology is following closely and feels that
   this is demand ischemia. He has elevated CK and troponin is elevated
   which is likely due to demand ischemia.
   -- f/u cardiology reccs
   -- Ct ASA 325mg PO daily
   -- Check lipid panel
   -- When medically stable will need stress test
   .
   7)Anemia: Patient presented with Hct~36.5 on admission; decreased to 29
   today. Possible dilutional effect given all the IVFs he has received.
   - Continue to trend daily Hct
   .
   8)FEN: NPO for now; consider starting tube feeds in AM
   .
   9)Prophylaxis: Heparin SQ for DVT prophylaxis
   .
   10)Access: A-line, 2 PIV
   .
   11)Dispo: Pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2159-6-26**] 12:00 PM
   Arterial Line - [**2159-6-26**] 12:27 PM
   20 Gauge - [**2159-6-26**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2159-06-29 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Labetolol gtt weaned off yesterday during the day; restarted
   overnight for elevated blood pressures
   - Labetolol gtt stopped this morning
   - Labetolol PO increased to from 600mg to 800mg PO Q6H
   - Started on Captopril 6.25mg TID
   - Received Lasix 10mg IV x1 for increased BNP and congestion on cxray
   - Vascular reccs: Do not feel that he has infected aortic aneurysm; no
   additional imaging needed at this time; no additional procedures
   (endovascular stent) indicated at this time
   - ID reccs: Feel that this strep viridans is [**12-23**] a-line infection;
   recommend treating with Vancomycin x 7d course
   - L hand noted to be swollen likely due to IV infiltration; IVs d/ced
   in L hand; IV placed in R hand
   - Troponins elevated to 1.50 (from ~0.90); EKG with slightly worsening
   ST depressions in V4-6; no additional intervention at this time
   - Started on tube feeds (per nutrition)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2159-6-27**] 08:38 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2159-6-28**] 09:30 AM
   Furosemide (Lasix) - [**2159-6-28**] 04:02 PM
   Hydralazine - [**2159-6-29**] 03:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-6-29**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 60 (46 - 67) bpm
   BP: 120/52(72) {120/52(72) - 163/95(113)} mmHg
   RR: 19 (11 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.1 kg (admission): 74 kg
   Height: 70 Inch
             Total In:
                                                                  1,533 mL
                                                                    498 mL
   PO:
             TF:
                                                                    140 mL
                                                                    257 mL
   IVF:
                                                                  1,123 mL
                                                                    241 mL
   Blood products:
   Total out:
                                                                  1,235 mL
                                                                    380 mL
   Urine:
                                                                  1,135 mL
                                                                    380 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                    298 mL
                                                                    118 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.28/48/151/18/-4
   Physical Examination
   Gen :  Opening eyes spontaneously
   HEENT : Slightly dry mucous membranes
   Heart : RRR, no m,r,g
   Lungs: Scattered rhonchi, CTA
   Abdomen : Soft, NT/ND, +BS
   Extremities: Warm, hyperreflexive
   Labs / Radiology
   351 K/uL
   9.4 g/dL
   99 mg/dL
   2.2 mg/dL
   18 mEq/L
   3.9 mEq/L
   37 mg/dL
   112 mEq/L
   137 mEq/L
   26.7 %
   8.1 K/uL
        [image002.jpg]
                             [**2159-6-26**]  04:12 AM
                             [**2159-6-27**]  03:50 AM
                             [**2159-6-27**]  09:27 AM
                             [**2159-6-27**]  01:14 PM
                             [**2159-6-27**]  02:34 PM
                             [**2159-6-28**]  03:06 AM
                             [**2159-6-28**]  10:08 AM
                             [**2159-6-28**]  10:54 AM
                             [**2159-6-29**]  03:47 AM
                             [**2159-6-29**]  05:30 AM
   WBC
   7.0
   8.0
   8.1
   Hct
   24.5
   26.6
   26.3
   26.7
   Plt
   343
   383
   351
   Cr
   2.3
   2.2
   2.2
   TropT
   1.50
   TCO2
   22
   19
   19
   20
   19
   24
   Glucose
   94
   89
   99
   Other labs: PT / PTT / INR:13.6/26.7/1.2, CK / CKMB /
   Troponin-T:397/4/1.50, ALT / AST:20/43, Alk Phos / T Bili:66/0.4,
   Amylase / Lipase:42/47, Differential-Neuts:85.3 %, Lymph:9.9 %,
   Mono:3.7 %, Eos:0.9 %, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL,
   LDH:254 IU/L, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Imaging: [**6-28**] Cxray: Low lung volumes with bibasilar atelectasis. Stable
   cardiomegaly with mild perivascular haze suggesting overhydration.
   [**6-29**] Cxray: Pending
   Microbiology:
   Blood [**6-23**]: Coag neg staph
   Sputum [**6-24**]: MSSA
   Blood 8/3: Coag neg staph, strep viridans
Sputum [**6-25**]:
Gram stain: >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Final [**2159-6-28**]):
      RARE GROWTH OROPHARYNGEAL FLORA.
      STAPH AUREUS COAG +.    SPARSE GROWTH.
      YEAST.    RARE GROWTH.
   Stool [**6-27**]: C. diff negative
   Assessment and Plan
   Mr. [**Known lastname 1050**] is a 54yo male with recent type B aortic dissection,
   transferred to the MICU for further management of his acute medical
   issues.
   1)Aortic dissection: Patient presented to OSH with back pain and
   SBP~210
s and was found to have type B dissection. Agressive BP control
   with goal of SBP < 130 and HR < 60. Labetalol gtt was titrated off
   yesterday and then restarted overnight which is now weaned off.
   Captopril also started overnight.  Vascular surgery does not feel any
   further imaging or work-up is necessary at this time.
   -- Ct Labetolol 800mg PO Q6H
   -- Continue Captopril 12.5mg TID; titrate up as BP and Cr able to
   tolerate
   -- Continue Hydralazine for now but wean down as ace-inhibitor and
   beta-blocker are titrated up
   -- Continue ASA 325mg PO daily
   2) Mental status: Likely [**12-23**] innumerable infarcts in both hemispheres
   involving supratentorial/infratentorial and corpus collosum.
   Preliminary MRI report suggestive of embolic source but TTE/TEE were
   unrevealing.  ID does not feel that he has an infected aortic aneurysm
   and recent infarct unlikely septic emboli.
   -- f/u neuro reccs
   -- f/u MRI/MRA final report
   -- Upload OSH MRI report
   3)Renal failure: Patient presented with Cr of 1.9 on admission; peaked
   to 2.4 and now stable at 2.2.  He had a renal ultrasound which per
   vascular is not suggestive of renal artery involvement from the
   dissection.
   -- f/u daily Cr
   -- Renally dose medications
   -- No further imaging necessary at this time
   4) Bacteremia: Patient growing coag negative staph and viridans strep
   in blood cultures. Currently on Vancomycin. He had a TTE and TEE which
   do not suggest endocarditis although we are still concerned about an
   infected aortic aneurysm.  ID was re-consulted and did not feel that
   the aneurysm was infected; felt that this was [**12-23**] line infection.
   -- Continue Vancomycin 750mg IV Q24 for undefined course
   -- f/u blood cultures
   -- f/u surveillance cultures
   5)Respiratory: Patient was intubated on [**6-23**] for airway protection in
   the setting of acute mental status changes. He was extubated yesterday
   with no complications. He has been maintaining excellent oxygen
   saturations.
   6) EKG changes/elevated troponins: Elevated to 1.50 yesterday. EKG not
   changed significantly.  No need to monitor further.
   7) Anemia: Hematocrit remains stable at 26.
   -- Transfuse for Hct<21
   ICU Care
   Nutrition: Blood sugars well controlled
   ProBalance (Full) - [**2159-6-28**] 09:15 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2159-6-26**] 12:27 PM
   20 Gauge - [**2159-6-28**] 11:02 PM
   - Will place PICC line today
   Prophylaxis:
   DVT: Heparin SQ for DVT prophylaxis
   Stress ulcer:  PPI no longer need, d/c
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code ; talk with case management about guardianship
   Disposition: Remain in ICU

2159-06-30 06:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2159-6-29**] 01:00 PM
   Stools remains loose, guaiac negative now. Added banana flakes to TF
   Patient very hypertensive overnight requiring agressive escalation of
   therapy
   -- Captorpril increased to 25mg
   -- Hydralazine 10mg IV given x 3
   -- Clonidine started at 0.1mg TID
   -- Nitro drip started
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2159-6-27**] 08:38 AM
   Infusions:
   Nitroglycerin - 2 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2159-6-29**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2159-6-29**] 08:00 AM
   Hydralazine - [**2159-6-29**] 10:18 PM
   Morphine Sulfate - [**2159-6-29**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-6-30**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.9
C (98.5
   HR: 66 (58 - 71) bpm
   BP: 158/80(105) {93/64(81) - 192/124(321)} mmHg
   RR: 15 (13 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85 kg (admission): 74 kg
   Height: 70 Inch
             Total In:
                                                                  1,978 mL
                                                                    483 mL
   PO:
             TF:
                                                                  1,180 mL
                                                                    243 mL
   IVF:
                                                                    258 mL
                                                                    180 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    480 mL
   Urine:
                                                                  1,425 mL
                                                                    480 mL
   NG:
   Stool:
                                                                    225 mL
   Drains:
   Balance:
                                                                    328 mL
                                                                      3 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   404 K/uL
   8.8 g/dL
   111 mg/dL
   2.0 mg/dL
   20 mEq/L
   3.6 mEq/L
   31 mg/dL
   112 mEq/L
   139 mEq/L
   24.7 %
   8.6 K/uL
        [image002.jpg]
                             [**2159-6-27**]  03:50 AM
                             [**2159-6-27**]  09:27 AM
                             [**2159-6-27**]  01:14 PM
                             [**2159-6-27**]  02:34 PM
                             [**2159-6-28**]  03:06 AM
                             [**2159-6-28**]  10:08 AM
                             [**2159-6-28**]  10:54 AM
                             [**2159-6-29**]  03:47 AM
                             [**2159-6-29**]  05:30 AM
                             [**2159-6-30**]  03:56 AM
   WBC
   7.0
   8.0
   8.1
   8.6
   Hct
   24.5
   26.6
   26.3
   26.7
   24.7
   Plt
   343
   383
   351
   404
   Cr
   2.3
   2.2
   2.2
   2.0
   TropT
   1.50
   TCO2
   19
   19
   20
   19
   24
   Glucose
   94
   89
   99
   111
   Other labs: PT / PTT / INR:13.4/28.9/1.2, CK / CKMB /
   Troponin-T:397/4/1.50, ALT / AST:20/43, Alk Phos / T Bili:66/0.4,
   Amylase / Lipase:42/47, Differential-Neuts:78.2 %, Lymph:13.1 %,
   Mono:5.3 %, Eos:3.2 %, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL,
   LDH:254 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1050**] is a 54yo male with recent type B aortic dissection,
   transferred to the MICU for further management of his acute medical
   issues.
   1)Aortic dissection: Patient presented to OSH with back pain and
   SBP~210
s and was found to have type B dissection. Agressive BP control
   with goal of SBP < 130 and HR < 60. Labetalol gtt was titrated off
   yesterday and then restarted overnight which is now weaned off.
   Captopril also started overnight.  Vascular surgery does not feel any
   further imaging or work-up is necessary at this time.
   -- Ct Labetolol 800mg PO Q6H
   -- Increase Captopri to 37.5mg TID; titrate up as BP and Cr able to
   tolerate
   -- Continue Hydralazine for now but wean down as ace-inhibitor and
   beta-blocker are titrated up
   -- Continue clonidine, uptitrate in alternating fashion with ACEI
   -- Continue nitro drip for now
   -- Continue ASA 325mg PO daily
   2) Mental status: Likely [**12-23**] innumerable infarcts in both hemispheres
   involving supratentorial/infratentorial and corpus collosum.
   Preliminary MRI report suggestive of embolic source but TTE/TEE were
   unrevealing.  ID does not feel that he has an infected aortic aneurysm
   and recent infarct unlikely septic emboli.
   -- f/u neuro reccs
   -- f/u MRI/MRA comparison as prior scans have been marged onto medical
   record (patient initially listed as EU Critical)
   3)Renal failure: improving in spite of increasing ACEI, suggesting a
   chronic insufficiency
   -- f/u daily Cr
   -- Renally dose medications
   -- No further imaging necessary at this time
   4) Bacteremia: Patient growing coag negative staph and viridans strep
   in blood cultures. Currently on Vancomycin. He had a TTE and TEE which
   do not suggest endocarditis although we are still concerned about an
   infected aortic aneurysm.  ID was re-consulted and did not feel that
   the aneurysm was infected; felt that this was [**12-23**] line infection.
   -- Continue Vancomycin 750mg IV Q24 for 7 day total
   -- f/u blood cultures
   -- f/u surveillance cultures
   5)Respiratory: Patient was intubated on [**6-23**] for airway protection in
   the setting of acute mental status changes. He was extubated yesterday
   with no complications. He has been maintaining excellent oxygen
   saturations.
   6) EKG changes/elevated troponins: Elevated to 1.50 yesterday. EKG not
   changed significantly.  No need to monitor further.
   7) Anemia: Hematocrit remains stable at 26.
   -- Transfuse for Hct<21
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2159-6-26**] 12:27 PM
   PICC Line - [**2159-6-29**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2159-07-01 06:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Spiked temperature to 101.2, pan-cultured
   -Captopril titrated up to 50mg TID, hydralazine made PO and increased
   to 25mg Q6H, still unable to come off nitro gtt.  Patient is notably
   anxious while hypertensive.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2159-6-30**] 10:00 AM
   Infusions:
   Nitroglycerin - 3 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2159-6-30**] 12:30 PM
   Heparin Sodium (Prophylaxis) - [**2159-6-30**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-7-1**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.7
C (99.8
   HR: 74 (61 - 77) bpm
   BP: 185/81(108) {114/62(79) - 185/100(116)} mmHg
   RR: 19 (15 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85 kg (admission): 74 kg
   Height: 70 Inch
             Total In:
                                                                  3,122 mL
                                                                    913 mL
   PO:
             TF:
                                                                  1,506 mL
                                                                    446 mL
   IVF:
                                                                  1,147 mL
                                                                    227 mL
   Blood products:
   Total out:
                                                                  1,670 mL
                                                                    437 mL
   Urine:
                                                                  1,670 mL
                                                                    437 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,452 mL
                                                                    476 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   402 K/uL
   8.3 g/dL
   107 mg/dL
   1.7 mg/dL
   22 mEq/L
   3.8 mEq/L
   26 mg/dL
   110 mEq/L
   139 mEq/L
   23.3 %
   10.8 K/uL
        [image002.jpg]
                             [**2159-6-27**]  09:27 AM
                             [**2159-6-27**]  01:14 PM
                             [**2159-6-27**]  02:34 PM
                             [**2159-6-28**]  03:06 AM
                             [**2159-6-28**]  10:08 AM
                             [**2159-6-28**]  10:54 AM
                             [**2159-6-29**]  03:47 AM
                             [**2159-6-29**]  05:30 AM
                             [**2159-6-30**]  03:56 AM
                             [**2159-7-1**]  03:27 AM
   WBC
   8.0
   8.1
   8.6
   10.8
   Hct
   26.6
   26.3
   26.7
   24.7
   23.3
   Plt
   383
   351
   404
   402
   Cr
   2.2
   2.2
   2.0
   1.7
   TropT
   1.50
   TCO2
   19
   19
   20
   19
   24
   Glucose
   89
   99
   111
   107
   Other labs: PT / PTT / INR:13.7/29.7/1.2, CK / CKMB /
   Troponin-T:397/4/1.50, ALT / AST:20/43, Alk Phos / T Bili:66/0.4,
   Amylase / Lipase:42/47, Differential-Neuts:78.2 %, Lymph:13.1 %,
   Mono:5.3 %, Eos:3.2 %, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL,
   LDH:254 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Imaging: None
   Microbiology: Blood [**6-23**]: MSSA
   Blood 8/3: MSSA and Strep viridans
   Blood [**Date range (1) 1094**]: NGTD
   Sputum [**Date range (1) 1095**]: MSSA
   CSF and urine have been negative
   Assessment and Plan
   Mr. [**Known lastname 1050**] is a 54yo male with recent type B aortic dissection,
   transferred to the MICU for further management of his acute medical
   issues.
    1)Aortic dissection: Stable, need to maintain SBP less than 130
   -- Ct Labetolol 800mg PO Q6H
   -- Increase Captopri to 50mg TID; titrate up as BP and Cr able to
   tolerate
   -- Continue Hydralazine for now but wean down as ace-inhibitor and
   beta-blocker are titrated up
   -- Continue clonidine, uptitrate in alternating fashion with ACEI
   -- Continue nitro drip for now
   -- Continue ASA 325mg PO daily
   2) Mental status: Likely [**12-23**] innumerable infarcts in both hemispheres
   involving supratentorial/infratentorial and corpus collosum.
   Preliminary MRI report suggestive of embolic source but TTE/TEE were
   unrevealing.  ID does not feel that he has an infected aortic aneurysm
   and recent infarct unlikely septic emboli.
   -- f/u neuro reccs
   -- f/u MRI/MRA comparison as prior scans have been marged onto medical
   record (patient initially listed as EU Critical)
   3)Renal failure: improving in spite of increasing ACEI, suggesting a
   chronic insufficiency
   -- f/u daily Cr
   -- Renally dose medications
   -- No further imaging necessary at this time
   4) Bacteremia: No more positive cultures.
   -- Continue Vancomycin 750mg IV Q24 for 7 day total
   -- f/u blood cultures
   -- f/u surveillance cultures
   5)Respiratory: Improved, with good sats in room air
    6) EKG changes/elevated troponins: Serial ECGs only given demand
   ischemia from hypertensive urgency.
   7) Anemia: Hematocrit remains stable at 26.
   -- Transfuse for Hct<21
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2159-7-1**] 02:58 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2159-6-26**] 12:27 PM
   PICC Line - [**2159-6-29**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2159-07-02 06:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2159-7-1**] 10:00 PM
 ARTERIAL LINE - START [**2159-7-2**] 12:30 AM
   - Nitro gtt stopped; started on Labetolol gtt
   - Several doses of Labetolol PO held in light of low heart rates
   - Norvasc 5mg started
   - Captopril titrated up to 75mg TID
   - Clonidine increased from 0.1mg to 0.2mg TID
   - A line with poor waveforms; a-line placed into L forearm with on call
   ICU attending
   - Lasix 20mg IV x 1 this morning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2159-7-1**] 08:00 AM
   Infusions:
   Labetalol - 3 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2159-7-1**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-7-2**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.9
C (98.5
   HR: 50 (49 - 74) bpm
   BP: 136/69(88) {106/57(71) - 181/90(114)} mmHg
   RR: 16 (13 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 85 kg (admission): 74 kg
   Height: 70 Inch
             Total In:
                                                                  4,036 mL
                                                                  1,100 mL
   PO:
             TF:
                                                                  1,591 mL
                                                                    435 mL
   IVF:
                                                                  1,725 mL
                                                                    485 mL
   Blood products:
   Total out:
                                                                  1,542 mL
                                                                    440 mL
   Urine:
                                                                  1,542 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,494 mL
                                                                    660 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   Gen: Somnolent but opens eyes to voice
   HEENT: Dry mucous membranes
   Heart: RRR, no m,r,g
   Lungs: CTAB, decreased breath sounds at bases
   Abdomen: Soft, NT/ND, +BS
   Extremities: Warm, L>R LE edema
   Labs / Radiology
   308 K/uL
   7.8 g/dL
   146 mg/dL
   1.9 mg/dL
   22 mEq/L
   4.1 mEq/L
   29 mg/dL
   106 mEq/L
   134 mEq/L
   22.4 %
   8.8 K/uL
        [image002.jpg]
                             [**2159-6-27**]  01:14 PM
                             [**2159-6-27**]  02:34 PM
                             [**2159-6-28**]  03:06 AM
                             [**2159-6-28**]  10:08 AM
                             [**2159-6-28**]  10:54 AM
                             [**2159-6-29**]  03:47 AM
                             [**2159-6-29**]  05:30 AM
                             [**2159-6-30**]  03:56 AM
                             [**2159-7-1**]  03:27 AM
                             [**2159-7-2**]  03:36 AM
   WBC
   8.0
   8.1
   8.6
   10.8
   8.8
   Hct
   26.6
   26.3
   26.7
   24.7
   23.3
   22.4
   Plt
   383
   351
   404
   402
   308
   Cr
   2.2
   2.2
   2.0
   1.7
   1.9
   TropT
   1.50
   TCO2
   19
   20
   19
   24
   Glucose
   89
   99
   111
   107
   146
   Other labs: PT / PTT / INR:13.7/29.7/1.2, CK / CKMB /
   Troponin-T:397/4/1.50, ALT / AST:20/43, Alk Phos / T Bili:66/0.4,
   Amylase / Lipase:42/47, Differential-Neuts:78.2 %, Lymph:13.1 %,
   Mono:5.3 %, Eos:3.2 %, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL,
   LDH:254 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Imaging: [**7-1**] Cxray: Increased congestion; final read pending
   Microbiology: [**6-30**] Urine culture: Pending
   [**6-30**] Blood culture: Pending
   [**7-1**] Sputum culture: Pending
   Assessment and Plan
   Mr. [**Known lastname 1050**] is a 54yo male with recent type B aortic dissection,
   transferred to the MICU for further management of his acute medical
   issues.
    1)Aortic dissection: BP still remains elevated despite being labetolol
   gtt and other oral medications.  Despite being on this regimen, there
   has been significantly difficulty keeping his blood pressure <130. More
   realistic goal is between 140-150. There is likely a component of
   agitation as well.
   -- Ct Labetol gtt with goal to wean off for BP~140-150
   -- Decrease Labetolol PO to 600mg TID given bradycardia
   -- Increase Captopril to 100mg TID
   -- Continue Hydralazine 25mg Q6
   -- Continue Clonidine to 0.2mg TID
   -- d/c Norvasc; start Nifedipine 10mg x 1; will likely work more
   quickly than Norvasc; can give additional dose if necessary
   -- Continue ASA 325mg PO daily
   -- Consider d/c
ing a-line tomorrow
   -- Lasix 20mg IV x 1 this morning; has evidence of fluid overload and
   positive over length of stay; goal I/O~-1 liter  negative
   -- Zydis for anxiety
   2) Fevers: Patient currently on Vancomycin for a-line infection. There
   was some concern for an infected aortic aneurysm but ID does not feel
   that this is the case.  He has not spiked a temperature in the past 24
   hours.  Also concerned about possible LE DVT given asymmetrical LE
   edema.
   -- LE LENI
   -- Continue Vancomycin 750mg IV Q24
   -- f/u culture data
   -- Send sputum cx
   3) Neuro: Likely [**12-23**] innumerable infarcts in both hemispheres involving
   supratentorial/infratentorial and corpus collosum. Preliminary MRI
   report suggestive of embolic source but TTE/TEE were unrevealing.  ID
   does not feel that he has an infected aortic aneurysm and recent
   infarct unlikely septic emboli.
   -- f/u neuro reccs
   4)Renal failure: Cr improved from 2.2 to 1.7 yesterday; increased to
   1.9 this morning.
   -- f/u daily Cr
   -- Renally dose medications
   -- If rising tomorrow, will need to consider stopping Lasix and or
   decrease dose of ace-inhibitor
   5) EKG changes/elevated troponins: No further work-up at this time.
   6) Anemia: Hct continues to slowly drop to ~22 this morning. No clear
   source.  If continues to drop tomorrow, will need to discuss imaging of
   the abdomen/RP.
   -- Transfuse for Hct<21
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2159-7-2**] 01:36 AM 70 mL/hour
   Glycemic Control:  Blood sugars well controlled
   Lines:
   PICC Line - [**2159-6-29**] 01:00 PM
   Arterial Line - [**2159-7-2**] 12:30 AM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer:  N/A
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Remain in MICU

2159-07-03 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2159-7-2**] 01:40 PM
   BILAT LE USN - No signs of DVT
   Nifedipine ordered, unable to give via NG tube, dosing of hydralazine
   delayed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2159-7-2**] 07:45 AM
   Infusions:
   Labetalol - 2 mg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2159-7-2**] 07:44 AM
   Heparin Sodium (Prophylaxis) - [**2159-7-2**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-7-3**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.5
   HR: 54 (50 - 62) bpm
   BP: 157/69(96) {122/52(72) - 186/81(116)} mmHg
   RR: 12 (9 - 17) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 85 kg (admission): 74 kg
   Height: 70 Inch
             Total In:
                                                                  3,744 mL
                                                                    992 mL
   PO:
             TF:
                                                                  1,680 mL
                                                                    443 mL
   IVF:
                                                                  1,794 mL
                                                                    370 mL
   Blood products:
   Total out:
                                                                  4,365 mL
                                                                  1,070 mL
   Urine:
                                                                  4,365 mL
                                                                  1,070 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -621 mL
                                                                    -78 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   Gen: Opens eyes to voice, answers questions
   HEENT: MMM
   Heart: RRR, no m,r,g
   Lungs: Diffuse rhonchi likely from upper airways
   Abdomen: Soft, NT/ND, +BS
   Extremities: No edema, feet in boots
   Labs / Radiology
   330 K/uL
   8.0 g/dL
   121 mg/dL
   2.0 mg/dL
   24 mEq/L
   3.8 mEq/L
   31 mg/dL
   110 mEq/L
   140 mEq/L
   23.1 %
   8.6 K/uL
        [image002.jpg]
                             [**2159-6-27**]  02:34 PM
                             [**2159-6-28**]  03:06 AM
                             [**2159-6-28**]  10:08 AM
                             [**2159-6-28**]  10:54 AM
                             [**2159-6-29**]  03:47 AM
                             [**2159-6-29**]  05:30 AM
                             [**2159-6-30**]  03:56 AM
                             [**2159-7-1**]  03:27 AM
                             [**2159-7-2**]  03:36 AM
                             [**2159-7-3**]  03:15 AM
   WBC
   8.0
   8.1
   8.6
   10.8
   8.8
   8.6
   Hct
   26.6
   26.3
   26.7
   24.7
   23.3
   22.4
   23.1
   Plt
   383
   351
   404
   [**Telephone/Fax (3) 1113**]
   Cr
   2.2
   2.2
   2.0
   1.7
   1.9
   2.0
   TropT
   1.50
   TCO2
   20
   19
   24
   Glucose
   89
   99
   111
   107
   146
   121
   Other labs: PT / PTT / INR:13.7/29.7/1.2, CK / CKMB /
   Troponin-T:397/4/1.50, ALT / AST:20/43, Alk Phos / T Bili:66/0.4,
   Amylase / Lipase:42/47, Differential-Neuts:78.2 %, Lymph:13.1 %,
   Mono:5.3 %, Eos:3.2 %, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL,
   LDH:254 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   MICRO
[**2159-7-1**] 2:25 pm SPUTUM      Source: Expectorated.
   GRAM STAIN (Final [**2159-7-1**]):
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH
                                    OROPHARYNGEAL FLORA.
   RESPIRATORY CULTURE (Preliminary):
      ? OROPHARYNGEAL FLORA ABSENT.  STAPH AUREUS COAG +.    MODERATE GROWTH.
CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2159-6-28**]):
      Feces negative for C.difficile toxin A & B by EIA
BLOOD CULTURES: PENDING (NGTD)
   Assessment and Plan
   Mr. [**Known lastname 1050**] is a 54yo male with recent type B aortic dissection,
   transferred to the MICU for further management of his acute medical
   issues.
    1) Aortic dissection: BP still remains elevated despite being
   labetolol gtt and other oral medications.  Currently hoping for more
   realistic goal is between 140-150. There is likely a component of
   agitation as well.
   -- Ct Labetol gtt with goal to wean off for BP~140-150
   -- Decrease Labetolol PO to 600mg TID given bradycardia
   -- Increase Captopril to 100mg TID
   -- Continue Hydralazine 50mg Q6, HCTZ for the fluid retention it will
   cause (and also to help with BP)
   -- Continue Clonidine to 0.2mg TID
   -- If Nifedipine can be given via NG tube, would try this instead of
   hydralazine.
    -- Continue ASA 325mg PO daily
   -- Would D/C A-line today
   -- Zydis for anxiety
   2) Fevers: Patient currently on Vancomycin for a-line infection. There
   was some concern for an infected aortic aneurysm but ID does not feel
   that this is the case.  He has not spiked a temperature in the past 24
   hours.  Also concerned about possible LE DVT given asymmetrical LE
   edema.
   -- LE LENI
s negative
   -- Sputum with Staph, would continue Vancomycin 750mg IV Q24, until
   MRSA is r/o
   -- f/u culture data
   -- Send sputum sensitivity
   3) Neuro: Likely [**12-23**] innumerable infarcts in both hemispheres involving
   supratentorial/infratentorial and corpus collosum. Preliminary MRI
   report suggestive of embolic source but TTE/TEE were unrevealing.  ID
   does not feel that he has an infected aortic aneurysm and recent
   infarct unlikely septic emboli.
   -- f/u neuro recs
   -- Patient will need aggressive rehabilitation.
   4)Renal failure: Creatinine is back to 2.0, unclear if this is close to
   his baseline. In light of life threatening aortic dissection, will
   tolerate slight increase in creatinine
   -- f/u daily Cr
   -- Renally dose medications
   -- Would consider stopping Lasix
   -- Would not decrease dose of ace-inhibitor
   -- Would still consider adding HCTZ as above
   5) EKG changes/elevated troponins: No further work-up at this time.
   6) Anemia: Hct continues to slowly drop to ~22 this morning. No clear
   source.  If continues to drop tomorrow, will need to discuss imaging of
   the abdomen/RP.
   -- Transfuse for Hct<21
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2159-7-2**] 10:57 PM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2159-6-29**] 01:00 PM
   Arterial Line - [**2159-7-2**] 12:30 AM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: n/a
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2159-07-04 08:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2159-7-3**] 10:47 AM
 Labetalol gtt stopped
 PO nifedipine started
 captopril transitioned to lisinopril
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2159-7-2**] 07:45 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2159-7-3**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-7-4**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 59 (51 - 67) bpm
   BP: 152/70(90) {111/56(70) - 168/78(99)} mmHg
   RR: 13 (11 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 85.5 kg (admission): 74 kg
   Height: 70 Inch
             Total In:
                                                                  3,348 mL
                                                                    829 mL
   PO:
             TF:
                                                                  1,979 mL
                                                                    568 mL
   IVF:
                                                                    759 mL
                                                                     81 mL
   Blood products:
   Total out:
                                                                  3,290 mL
                                                                  1,480 mL
   Urine:
                                                                  3,290 mL
                                                                  1,480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     58 mL
                                                                   -651 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   Gen: Opens eyes to voice, answers questions
   HEENT: MMM
   Heart: RRR, no m,r,g
   Lungs: Diffuse rhonchi likely from upper airways
   Abdomen: Soft, NT/ND, +BS
   Extremities: No edema, feet in boots
   Labs / Radiology
   392 K/uL
   8.4 g/dL
   103 mg/dL
   2.0 mg/dL
   24 mEq/L
   4.1 mEq/L
   28 mg/dL
   111 mEq/L
   141 mEq/L
   24.6 %
   9.7 K/uL
        [image002.jpg]
                             [**2159-6-28**]  03:06 AM
                             [**2159-6-28**]  10:08 AM
                             [**2159-6-28**]  10:54 AM
                             [**2159-6-29**]  03:47 AM
                             [**2159-6-29**]  05:30 AM
                             [**2159-6-30**]  03:56 AM
                             [**2159-7-1**]  03:27 AM
                             [**2159-7-2**]  03:36 AM
                             [**2159-7-3**]  03:15 AM
                             [**2159-7-4**]  02:53 AM
   WBC
   8.0
   8.1
   8.6
   10.8
   8.8
   8.6
   9.7
   Hct
   26.3
   26.7
   24.7
   23.3
   22.4
   23.1
   24.6
   Plt
   383
   351
   404
   [**Telephone/Fax (3) 1113**]
   392
   Cr
   2.2
   2.2
   2.0
   1.7
   1.9
   2.0
   2.0
   TropT
   1.50
   TCO2
   20
   19
   24
   Glucose
   89
   99
   111
   107
   146
   121
   103
   Other labs: PT / PTT / INR:13.3/29.7/1.1, CK / CKMB /
   Troponin-T:397/4/1.50, ALT / AST:20/43, Alk Phos / T Bili:66/0.4,
   Amylase / Lipase:42/47, Differential-Neuts:78.2 %, Lymph:13.1 %,
   Mono:5.3 %, Eos:3.2 %, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL,
   LDH:254 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1050**] is a 54yo male with recent type B aortic dissection,
   transferred to the MICU for further management of his acute medical
   issues.
   1) Aortic dissection: BP.
   -- D/C Labetol gtt
   -- Increase Labetolol PO to 800mg TID
   -- Continue Captopril to 100mg TID
   -- Continue Hydralazine 50mg Q6,
   -- Continue Clonidine to 0.2mg TID
   -- If Nifedipine can be given via NG tube, would try this today
    -- Continue ASA 325mg PO daily
   -- Would D/C A-line today
   -- Zydis for anxiety
   2) Fevers: Patient currently on Vancomycin for a-line infection. There
   was some concern for an infected aortic aneurysm but ID does not feel
   that this is the case.  He has not spiked a temperature in the past 24
   hours.  Also concerned about possible LE DVT given asymmetrical LE
   edema.
   -- LE LENI
s negative
   -- Sputum with Staph, would f/u sensitivities, no evidence of pneumonia
   at this time
   -- f/u culture data
   -- Send sputum sensitivity
   3) Neuro: Likely [**12-23**] innumerable infarcts in both hemispheres involving
   supratentorial/infratentorial and corpus collosum. Preliminary MRI
   report suggestive of embolic source but TTE/TEE were unrevealing.  ID
   does not feel that he has an infected aortic aneurysm and recent
   infarct unlikely septic emboli.
   -- f/u neuro recs
   -- Patient will need aggressive rehabilitation.
   4)Renal failure: Creatinine is back to 2.0, unclear if this is close to
   his baseline. In light of life threatening aortic dissection, will
   tolerate slight increase in creatinine
   -- f/u daily Cr
   -- Renally dose medications
   -- Would consider stopping Lasix
   -- Would not decrease dose of ace-inhibitor
   -- Would still consider adding HCTZ as above
   5) EKG changes/elevated troponins: No further work-up at this time.
   6) Anemia: Hct continues to slowly drop to ~22 this morning. No clear
   source.  If continues to drop tomorrow, will need to discuss imaging of
   the abdomen/RP.
   -- Transfuse for Hct<21
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2159-7-3**] 08:26 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2159-6-29**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: